US06600038B1
In 4 ml of tetrahydrofuran, 0.47 g of 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetic acid was dissolved. After the reaction mixture was cooled to −15° C., 0.14 g of N-methylmorpholine and 0.19 g of isobutyl chloroformate was added thereto. After the reaction solution was stirred for 5 minutes, 0.085 ml of 28% aqueous ammonia was added thereto. The reaction mixture was warmed up to room temperature and was subsequently stirred overnight. Water was poured into the reaction mixture. The reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent:chloroform—methanol=50:1) to yield 0.41 g of 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetamide as an oil.

reactant | 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetic acid | 0.47 g | ClC1=C2N(C(N(C2=NC(=N1)C)C1=C(C=C(C=C1)C(C)C)SC)=O)CC(=O)O | C18H19ClN4O3S
reactant | N-methylmorpholine | 0.14 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.19 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | 0.085 ml | N | H3N
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | 2-[6-chloro-2-methyl-8-oxo-9-(4-isopropyl-2-methylthiophenyl)-8,9-dihydropurin-7-yl]acetamide | 0.41 g | ClC1=C2N(C(N(C2=NC(=N1)C)C1=C(C=C(C=C1)C(C)C)SC)=O)CC(=O)N | C18H20ClN5O2S
